US07691893B2
Preparation 39: 3-methyl 1-(phenyl methyl) 4-[3-chloro-4-(trifluoromethyl)phenyl]-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (P39)
To a stirred solution of 3-methyl 1-(phenylmethyl) 4-{[(trifluoromethyl)sulfonyl]oxy}-1,3-piperidinedicarboxylate (3 g) (P38) and [3-chloro-4-(trifluoromethyl)phenyl]boronic acid (1.826 g) in dry toluene (37 mL) under N2 atmosphere at 0° C., Pd(PPh3)4 (292 mg) dissolved in absolute EtOH (26 ml), was added followed by Na2CO3 2M (21 mL). The reaction mixture was heated to 80° C. for 2 h. Et2O was then added to the solution and the organic phase was separated. The aqueous layer was extracted with Et2O and the combined organic phases were washed with saturated NaCl aqueous solution, dried and concentrated under vacuum. The crude was purified by flash-chromatography (eluting with cyclohexane/ethyl acetate from 9:1 to 8:2) to give the title compound (3.03 g).

reactant | 3-methyl 1-(phenylmethyl) 4-{[(trifluoromethyl)sulfonyl]oxy}-1,3-piperidinedicarboxylate | 3 g | FC(S(=O)(=O)OC1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC)(F)F | C16H18F3NO7S
reactant | [3-chloro-4-(trifluoromethyl)phenyl]boronic acid | 1.826 g | ClC=1C=C(C=CC1C(F)(F)F)B(O)O | C7H5BClF3O2
reactant | Na2CO3 | 2M, 21 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | toluene | 37 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 26 ml | CCO | C2H6O
catalyst | Pd(PPh3)4 | 292 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyl 1-(phenyl methyl) 4-[3-chloro-4-(trifluoromethyl)phenyl]-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 3.03 g | ClC=1C=C(C=CC1C(F)(F)F)C1=C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C22H19ClF3NO4
